US06545009B1
In the same manner as in Example 111, ethyl 4-[N-(4-chlorobenzoylmethyl)carbamoyl]benzoate was reacted with Lawesson's reagent to obtain ethyl 4-[5-(4-chlorophenyl)-2-thiazolyl]benzoate. The product was recrystallized from xylene-isopropyl ether. Yield: 89%. Pale yellow prisms. Melting point: 167 to 168° C.

reactant | ethyl 4-[N-(4-chlorobenzoylmethyl)carbamoyl]benzoate | ClC1=CC=C(C(=O)CNC(=O)C2=CC=C(C(=O)OCC)C=C2)C=C1 | C18H16ClNO4
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | ethyl 4-[5-(4-chlorophenyl)-2-thiazolyl]benzoate | Yield: 89% | ClC1=CC=C(C=C1)C1=CN=C(S1)C1=CC=C(C(=O)OCC)C=C1 | C18H14ClNO2S
